US07645753B2
4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzaldehyde
To a solution of [4-chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-phenyl]-methanol (0.089 g, 0.28 mmol, 1.0 equiv) in THF (20 mL) was added activated MnO2 (0.242 g, 2.78 mmol, 10.0 equiv). After stirring at rt for 4 h, the reaction mixture was filtered and the solvent removed by evaporation under reduced pressure providing 0.084 g (95%) of the title compound in sufficient quality for the reductive alkylation step. MS (ISP): 318.0 [M+H]+.

reactant | [4-chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-phenyl]-methanol | 0.28 mmol, 0.089 g, 1.0 equiv | ClC1=C(C=C(C=C1OCC)CO)N1CCS(CC1)(=O)=O | C13H18ClNO4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 2.78 mmol, 0.242 g, 10.0 equiv | O=[Mn]=O
product | 4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzaldehyde | 0.084 g, 95% | ClC1=C(C=C(C=O)C=C1OCC)N1CCS(CC1)(=O)=O | C13H16ClNO4S
